US04520007
3-(4(p-trifluoromethylphenoxy)phenyl)-4-phenylbutyric acid (23 g) was refluxed in benzene with thionyl chloride (46 ml) for one hour. The solution was then evaporated to dryness and the residue dissolved in benzene (23 ml). A solution of stannic chloride (23 g) in benzene (46 ml) was added at 0° with stirring. The solution was allowed to stir at 0° for 0.5 hr. Ice; water, diethylether and dilute HCl were then added sequentially. The ether extracts were further washed with aqueous potassium hydroxide and evaporated to give 3-(4-(p-trifluoromethylphenoxy)phenyl)tetralone m.p. 136°-137° (ethanol).

reactant | 3-(4(p-trifluoromethylphenoxy)phenyl)-4-phenylbutyric acid | 23 g | FC(C1=CC=C(OC2=CC=C(C=C2)C(CC(=O)O)CC2=CC=CC=C2)C=C1)(F)F | C23H19F3O3
reactant | thionyl chloride | 46 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(4-(p-trifluoromethylphenoxy)phenyl)tetralone | FC(C1=CC=C(OC2=CC=C(C=C2)C2CC(C3=CC=CC=C3C2)=O)C=C1)(F)F | C23H17F3O2
